US05034395
To 50 ml of methanol solution containing 10 g of 3-[4-(1-ethoxyethoxy)phenyl]propargyl acetate, were added 1.5 g of 5%-Pd-BaSO4 and 10 drops of quinoline, and the mixture was catalytically reduced. After the reaction was finished, the reaction mixture was filtered, and the filtrate was allowed to evaporation, the residue thus obtained was purified by means of a silica gel column chromatography (eluent: dichloromethane and dichloromethane:methanol=100:1) to obtain 3 g of 4(Z)-(1-ethoxyethoxy)cinnamyl acetate and 4 g of 4(Z)-hydroxycinnamyl acetate. Thus obtained 4 g of 4(Z)-hydroxycinnamyl acetate was dissolved in 20 ml of anhydrous ether, to this solution was added 50 mg of p-toluenesulfonic acid and 10 ml of ethyl vinyl ether, and the whole mixture was refluxed for 3 hours. The reaction mixture was then washed with 5%-sodium hydroxide aqueous solution and water in this order, and dried. The solvent was removed by evaporation to yield 4.8 g of 4(Z)-(1-ethoxyethoxy)cinnamyl acetate.

reactant | 4(Z)-hydroxycinnamyl acetate | 4 g | C(C)(=O)OC\C=C/C1=CC=C(C=C1)O | C11H12O3
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl vinyl ether | 10 ml | C(=C)OCC | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 4(Z)-(1-ethoxyethoxy)cinnamyl acetate | 4.8 g | C(C)(=O)OC\C=C/C1=CC=C(C=C1)OC(C)OCC | C15H20O4
